US07084147B2
(4-(3-Fluorobenzyloxy)-3-chlorophenyl)-(6-(5-(2-(methylsulfonyl)acetamidoethyl)-furan-2-yl)-quinazolin-4-yl)-amine
Preparation according to Procedure (I) utilizing (4-(3-fluorobenzyloxy)-3-chlorophenyl)-(6-(5-(2-aminoethyl)-furan-2-yl)-quinazolin-4-yl)-amine (26 mg, 0.0537 mmol), methanesulfonylacetic acid (22.2 mg, 0.161 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (30.0 mg, 0.161 mmol) and N,N-diisopropylethylamine (0.028 mL, 0.161 mmol). 1H (DMSO) 9.84 (s, 1H), 8.65 (s, 1 H), 8.49 (s, 1 H), 8.10 (d, 1 H), 7.96 (d, 1 H), 7.73 (d, 1 H), 7.69 (m, 1 H), 7.41 (m, 1 H), 7.22–7.29 (m, 3 H), 7.13 (m, 1 H), 6.98 (d, 1 H), 6.35 (d, 1 H), 5.21 (s, 2 H), 4.02 (s, 2 H), 3.07 (t, 2 H), 3.05 (s, 3 H), 2.87 (t, 2 H). Electrospray m/z 609 (MH+).

reactant | (4-(3-fluorobenzyloxy)-3-chlorophenyl)-(6-(5-(2-aminoethyl)-furan-2-yl)-quinazolin-4-yl)-amine | 0.0537 mmol, 26 mg | FC=1C=C(COC2=C(C=C(C=C2)NC2=NC=NC3=CC=C(C=C23)C=2OC(=CC2)CCN)Cl)C=CC1 | C27H22ClFN4O2
reactant | methanesulfonylacetic acid | 0.161 mmol, 22.2 mg | CS(=O)(=O)CC(=O)O | C3H6O4S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.161 mmol, 30.0 mg | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 0.161 mmol, 0.028 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | (4-(3-Fluorobenzyloxy)-3-chlorophenyl)-(6-(5-(2-(methylsulfonyl)acetamidoethyl)-furan-2-yl)-quinazolin-4-yl)-amine | FC=1C=C(COC2=C(C=C(C=C2)NC2=NC=NC3=CC=C(C=C23)C=2OC(=CC2)CCNC(CS(=O)(=O)C)=O)Cl)C=CC1 | C30H26ClFN4O5S
